US05185370
3-[(3,5-Dinitro-4-hydroxyphenyl)methylene]-2,4-pentanedione.
The procedure described in Example 1 was repeated by using 2.12 g of 3,5-dinitro-4-hydroxybenzaldehyde and 1.5 g of 2,4-pentanedione. Yield 1.9 g, mp 158° C.

reactant | 3,5-dinitro-4-hydroxybenzaldehyde | 2.12 g | [N+](=O)([O-])C=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H4N2O6
reactant | 2,4-pentanedione | 1.5 g | CC(CC(C)=O)=O | C5H8O2
product | 3-[(3,5-Dinitro-4-hydroxyphenyl)methylene]-2,4-pentanedione | [N+](=O)([O-])C=1C=C(C=C(C1O)[N+](=O)[O-])C=C(C(C)=O)C(C)=O | C12H10N2O7
